US05354746
Briefly, 200 parts of 2,5-dichloro-nitrobenzene were heated to 160° C. and stirred, and 160 parts of the potassium salt of salicylaldehyde was added over a period of 30 minutes. After the addition was complete, an exothermic reaction took place, and the temperature rose to about 195° C. Heating was discontinued until the reaction subsided, and the mixture was heated for 1 hour at 150° C. The mixture was cooled, ice and water were added, and it was extracted with ether. The ether layer was filtered to remove insoluble material, and the resultant solution was dried over sodium sulfate. The ether solvent was evaporated, and the residual oil was recrystallized from a mixture of hexane and benzene to give 2-(2-nitro-4-chloro-phenoxy)benzaldehyde melting at about 100°-101° C.

reactant | 2,5-dichloro-nitrobenzene | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | potassium | [K] | K
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | water | O | H2O
product | 2-(2-nitro-4-chloro-phenoxy)benzaldehyde | [N+](=O)([O-])C1=C(OC2=C(C=O)C=CC=C2)C=CC(=C1)Cl | C13H8ClNO4
